US05773530
A mixture of 3-(3-oxo-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (2.25 g), 1-methyl-1,2-epoxycyclohexane (1.31 g), benzyltrimethylammonium chloride (178 mg), 1N aqueous sodium hydroxide (7.8 ml), water (17 ml), and toluene was heated to reflux for 8 hours and 20 minutes. After the reaction mixture was cooled to room temperature, the precipitates were collected by filtration, washed with water, and dried. The crude material was purified by column chromatography on silica gel (CH2Cl2 :EtOAc=10:2) to give colorless crystals of 3-[2-{(1R*,2R*)-2-hydroxy-2-methylcyclohexyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]-pyridine (189 mg).

reactant | 3-(3-oxo-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 2.25 g | O=C1NN=C(C=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H12N4O
reactant | 1-methyl-1,2-epoxycyclohexane | 1.31 g | CC12C(CCCC1)O2 | C7H12O
reactant | sodium hydroxide | 1N, 7.8 ml | [OH-].[Na+]
reactant | water | 17 ml | O | H2O
catalyst | benzyltrimethylammonium chloride | 178 mg | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[2-{(1R*,2R*)-2-hydroxy-2-methylcyclohexyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]-pyridine | 189 mg | O[C@]1([C@@H](CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C | C24H24N4O2
